US04894385
Methyl 4-[1-(2-methylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
1.64 g of methyl 4-mercaptobenzoate was dissolved in 10.4 ml of dry dimethylformamide, and 424 mg of a 55% w/w suspension of sodium hydride in mineral oil were added, whilst ice-cooling. The resulting mixture was then stirred at room temperature for 30 minutes. 12 ml of dry dimethylformamide containing 2.15 g of 1-[2-chloro-2-(2-methylphenyl)ethyl]imidazole were added to the resulting solution, and the mixture was heated at a temperature between 60° and 70° C. for 5.5 hours. At the end of this time, the resulting solution was treated and purified by the same procedure as described in Example 1, to give 2.62 g of the title compound as an oil.

reactant | methyl 4-mercaptobenzoate | 1.64 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[2-chloro-2-(2-methylphenyl)ethyl]imidazole | ClC(CN1C=NC=C1)C1=C(C=CC=C1)C | C12H13ClN2
solvent | dimethylformamide | 10.4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 12 ml, 2.15 g | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(2-methylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 2.62 g | CC1=C(C=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C20H20N2O2S
